US06630578B2
Production of Methyl 3,5-Dimercaptobenzoate
Methyl 3,5-bis(dimethylcarbamoylthio)benzoate (34.2 g, 0.10 mol) was made to react with a mixture of 43 g of 28% methanol solution of sodium methoxide (0.223 mol) and methanol (150 ml) at 22-25° C. After addition of 500 ml of ice-water, the reaction mixture was neutralized with concentrated hydrochloric acid to give a colorless crystals. The crystals thus obtained were purified by means of recrystallization from methanol giving 12.5 g (62.5%) of methyl 3,5-dimercaptobenzoate as a colorless powder. The melting point is 61-62° C.

reactant | Methyl 3,5-bis(dimethylcarbamoylthio)benzoate | 0.10 mol, 34.2 g | CN(C(=O)SC=1C=C(C(=O)OC)C=C(C1)SC(N(C)C)=O)C | C14H18N2O4S2
reactant | sodium methoxide | 0.223 mol | C[O-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 150 ml | CO | CH4O
solvent | methanol | 43 g | CO | CH4O
product | Methyl 3,5-Dimercaptobenzoate | SC=1C=C(C(=O)OC)C=C(C1)S | C8H8O2S2
